data/oMe_Silver.jsonl
{"reaction_id": "NR-240_1-CC=Cc1ccccc1_2-C#N_3-CC(C)(C)C_4-c1ccc(Cl)cc1_5-C(c1ccccc1)c2ccccc2","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["CC=Cc1ccccc1C(=O)C(C#N)[N+](CC(C)(C)C)(c1ccc(Cl)cc1)C(c1ccccc1)c2ccccc2","[Li]N(C(C)C)C(C)C"],"products_smiles": ["CC=Cc1ccccc1C(=O)C(C#N)(C(c1ccccc1)c2ccccc2)N(CC(C)(C)C)(c1ccc(Cl)cc1)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC=Cc1ccccc1C([O-])=C(C#N)[N+](CC(C)(C)C)(c1ccc(Cl)cc1)C(c1ccccc1)c2ccccc2","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "CC=Cc1ccccc1C(=O)C(C#N)(C(c1ccccc1)c2ccccc2)N(CC(C)(C)C)(c1ccc(Cl)cc1)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
{"reaction_id": "NR-213_1-c2ccc([N+](=O)[O-])cc2_2-C2CCCCC2_3-c2ccccc2_4-C(=O)OC(C)(C)C","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2ccc([N+](=O)[O-])cc2)","C(C2CCCCC2)=C(c2ccccc2)(C(=O)OC(C)(C)C)"],"products_smiles": ["C(C2CCCCC2)1OC1(c2ccccc2)(C(=O)OC(C)(C)C)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2ccc([N+](=O)[O-])cc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2ccc([N+](=O)[O-])cc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(C2CCCCC2)1OC1(c2ccccc2)(C(=O)OC(C)(C)C)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
